US09126969B2
1,1-diethyl-3-{3-[5-fluoro-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea Hydrochloride
70 mg of 1,1-diethyl-3-[3-[5-fluoro-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea are suspended in 3 mL of a 3N solution of HCl in dioxane. The medium is stirred at ambient temperature for 48 hours. The solvent is evaporated off under vacuum in a rotary evaporator. The reaction crude is purified by flash chromatography on a 4 g silica cartridge, eluent: 100/0 to 80/20 dichloromethane/methanol. The fractions containing the expected product are concentrated and the solid obtained is triturated in isopropyl ether. After filtration and rinsing of the solid, 26.2 mg of 1,1-diethyl-3-{3-[5-fluoro-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea hydrochloride are isolated in the form of a sand-colored solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm) after addition of a drop of TFA-d1 (CF3COOD-d1): 1.15 (t, J=7.0 Hz, 6H); 1.39 (m, 1H); from 1.57 to 1.76 (m, 3H); 1.83 (m, 2H); 2.22 (m, 2H); 2.93 (m, 2H); 3.25 (m, 2H); 3.37 (q, J=7.0 Hz, 4H); 3.51 (m, 2H); 4.21 (t, J=6.0 Hz, 2H); 7.34 (d, J=7.5 Hz, 1H); 7.56 (d, J=11.0 Hz, 1H); 8.00 (s, 1H).

reactant | 1,1-diethyl-3-[3-[5-fluoro-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea | 70 mg | C(C)N(C(=O)NC=1C(=NN(C1)C1OCCCC1)C1=NC2=C(N1)C=C(C(=C2)F)OCCCN2CCCCC2)CC | C28H40FN7O3
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1-diethyl-3-{3-[5-fluoro-6-(3-piperidin-1-ylpropoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea Hydrochloride | Cl.C(C)N(C(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=C(C(=C2)F)OCCCN2CCCCC2)CC | InChI=1S/C23H32FN7O2.ClH/c1-3-31(4-2)23(32)28-19-15-25-29-21(19)22-26-17-13-16(24)20(14-18(17)27-22)33-12-8-11-30-9-6-5-7-10-30;/h13-15H,3-12H2,1-2H3,(H,25,29)(H,26,27)(H,28,32);1H
